US06114325
[[2-[(4-Methylpiperazinyl)carbonyl]phenyl]methoxy]-N-octadecylformamide hydrochloride (Compound 39)
4N Hydrochloric acid--ethyl acetate solution (8.50 ml) was added to a solution of [[2-[(4-methylpiperazinyl)carbonyl]phenyl]methoxy]-N-octadecylformamide (11.98 g) in ethyl acetate (120 ml) while being cooled with ice. After being stirred for 30 minutes at room temperature, the reaction mixture was concentrated. The residue was recrystallized from ethyl acetate-ethanol mixed solvent, thereby yielding 12.12 g of the aimed compound as white solid.

reactant | Hydrochloric acid | 4N | Cl | ClH
reactant | [[2-[(4-methylpiperazinyl)carbonyl]phenyl]methoxy]-N-octadecylformamide | 11.98 g | CN1CCN(CC1)C(=O)C1=C(C=CC=C1)CON(C=O)CCCCCCCCCCCCCCCCCC | C32H55N3O3
solvent | ethyl acetate | 120 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 8.50 ml | C(C)(=O)OCC | C4H8O2
product | [[2-[(4-Methylpiperazinyl)carbonyl]phenyl]methoxy]-N-octadecylformamide hydrochloride | 12.12 g | Cl.CN1CCN(CC1)C(=O)C1=C(C=CC=C1)CON(C=O)CCCCCCCCCCCCCCCCCC | InChI=1S/C32H55N3O3.ClH/c1-3-4-5-6-7-8-9-10-11-12-13-14-15-16-17-20-23-35(29-36)38-28-30-21-18-19-22-31(30)32(37)34-26-24-33(2)25-27-34;/h18-19,21-22,29H,3-17,20,23-28H2,1-2H3;1H
